US06162417
Trans-1,2,3,5,6,10b-Hexahydro-6-(4'-iodophenyl)pyrrolo[2,1-a]isoquinoline (trans-6).
To a stirred solution of 1.6 M of butyllithium (0.63 mL, 1.0 mmol) in hexane was added slowly a solution of trans-1,2,3,5,6,10b-hexahydro-6-(4'-bromophenyl)pyrrolo[2,1-a]isoquinoline (100 mg, 0.3 mmol) in 5 mL of anhydrous THF at -78° C. under an argon atmosphere. After stirred at -78° C. for 5 min., a solution of iodine (252 mg, 1.0 mmol) in 5 mL of anhydrous. THF was added in one portion. The reaction mixture was stirred at -78° C. for 30 min and then at room temperature for further 15 min, quenched with ice-water (20 mL), extracted with methylene chloride (3×20 mL). The combined methylene chloride extract was washed with 10% sodium bisulfite solution, water, brine, dried over anhydrous MgSO4, filtered and concentrated to afford a yellow oil. Flash chromatography with 2.5% MeOH, 0.05% Et3N in methylene chloride gave 55 mg of thick colorless oil (50% yield). 1H NMR (CDCl3) δ 1.73-2.05 (m, 3H, C2H2 & C1H), 2.30-2.2.44 (m, 1H, C1H), 2.579 (dt, 1H, J=9.0, 8.7 Hz, C3H), 2.869 (dd, 1H, J=5.1, 11.1 Hz, C5H), 2.90-3.03 (m, 2H, C3H & C5H), 3.480 (dd, 1H, J=7.2, 9.0 Hz, C10bH), 4.125 (t, 1H, J=4.8 Hz, C6H), 6.865 (d, 1H, J=7.5 Hz, aryl), 6.995 (d, 2H, J=8.1 Hz, C6 phenyl aryl), 7.04-7.20 (m, 3H, aryl), 7.575 (d, 2H, J=8.1 Hz, C6 phenyl aryl); 13C NMR (CDCl3) δ 22.17 (C2), 30.31 (C1), 45.48 (C3), 54.13 (C10b), 55.95 (C6), 63.67 (C5), 91.60 (4'C), 125.73 (aromatic), 126.30, 129.30, 130.97, 137.23. HRMS calculated 375.0484 (for C18H18NI), measured 375.0490 (relative error 1.6 ppm).

reactant | butyllithium | 1.0 mmol, 1.6 M, 0.63 mL | C(CCC)[Li]
reactant | trans-1,2,3,5,6,10b-hexahydro-6-(4'-bromophenyl)pyrrolo[2,1-a]isoquinoline | 0.3 mmol, 100 mg | BrC1=CC=C(C=C1)[C@@H]1CN2[C@@H](C3=CC=CC=C13)CCC2 | C18H18BrN
reactant | iodine | 1.0 mmol, 252 mg | II | I2
reactant | MeOH | CO | CH4O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | Et3N | CCN(CC)CC | C6H15N
product | Trans-1,2,3,5,6,10b-Hexahydro-6-(4'-iodophenyl)pyrrolo[2,1-a]isoquinoline | 55 mg, 50% yield | IC1=CC=C(C=C1)[C@@H]1CN2[C@@H](C3=CC=CC=C13)CCC2 | C18H18IN
